US07026339B2
N′-{(1E)-[2-(4-methylphenoxy)phenyl]methylene}-2-phenylacetohydrazide [PHA815012]
To a solution of 2-(4-methylphenoxy)-benzaldehyde (500 mg, 2.36 mmol) in EtOH (10 mL) is added phenyl acetic hydrazide (336 mg, 2.36 mmol) and the reaction is heated to 80° C. for 1 h. While cooling a white precipitate forms, and this solid is isolated by filtration and washed with portions of EtOH and Et2O. This solid is dried under vacuum to provide N′-{(1E)-[2-(4-methylphenoxy)phenyl]methylene)}2-phenylacetohydrazide (432 mg, 22%). 1H-NMR (400 MHz, DMSO-d6) 11.70–11.55 (m, 1H), 8.51–8.33 (m, 1H), 8.00–7.92 (m, 1H), 7.42–7.19 (m, 9H), 6.91–6.85 (m, 3H), 3.98–3.43 (m, 2H), 2.29 (s, 3H). ESI+ for C22H20N2O2: m/z=345 (M+H)+.

reactant | 2-(4-methylphenoxy)-benzaldehyde | 2.36 mmol, 500 mg | CC1=CC=C(OC2=C(C=O)C=CC=C2)C=C1 | C14H12O2
reactant | phenyl acetic hydrazide | 2.36 mmol, 336 mg | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | N′-{(1E)-[2-(4-methylphenoxy)phenyl]methylene}-2-phenylacetohydrazide | CC1=CC=C(OC2=C(C=CC=C2)\C=N\NC(CC2=CC=CC=C2)=O)C=C1 | C22H20N2O2
